US07163936B2
Allyl (2S)-2-methyl-4-(2-sulfanyl-1,3-thiazol-4-yl)-2,5-dihydro-1H-pyrrole-1-carboxylate prepared from allyl (2S)-4-(chloroacetyl)-2-methyl-2,5-dihydro-1H-pyrrole-1-carboxylate (331 mg, 1.36 mmol) in the same manner as Reference example 2.e) was dissolved in THF (3 ml). The solution was dropped into a suspension of LiAlH4 (103 mg, 2.71 mmol) in THF (3 ml) at 0° C. and the mixture was stirred at room temperature for 10 minutes. Thereto was added methanol and the mixture was filtered through a pad of silica gel. The solvent was removed in vacuo and the residue was purified with silica gel chromatography to give 4-[((5S)-1,5-dimethyl-2,5-dihydro-1H-pyrrol-3-yl]-1,3-thiazole-2-thiol (224 mg, 77%).

reactant | Allyl (2S)-2-methyl-4-(2-sulfanyl-1,3-thiazol-4-yl)-2,5-dihydro-1H-pyrrole-1-carboxylate | C[C@@H]1N(CC(=C1)C=1N=C(SC1)S)C(=O)OCC=C | C12H14N2O2S2
reactant | allyl (2S)-4-(chloroacetyl)-2-methyl-2,5-dihydro-1H-pyrrole-1-carboxylate | 1.36 mmol, 331 mg | ClCC(=O)C1=C[C@@H](N(C1)C(=O)OCC=C)C | C11H14ClNO3
reactant | LiAlH4 | 2.71 mmol, 103 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methanol | CO | CH4O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | ((5S)-1,5-dimethyl-2,5-dihydro-1H-pyrrol-3-yl]-1,3-thiazole-2-thiol | 224 mg, 77% | CN1CC(=C[C@@H]1C)C=1N=C(SC1)S | C9H12N2S2
